US08003785B2
A solution of 17.76 g (0.086 mole) 3-cyclobutylamino-2,2-difluoropropionic acid ethyl ester in 10 mL of ethyl acetate was added dropwise to a mixture of 16.6 g (0.086 mole) of 2,4-dichloro-5-nitro-pyrimidine, 28.9 g (0.344 mole) of sodium bicarbonate and 100 mL of ethyl acetate at 0 degrees. The cooling bath was removed and the reaction was stirred at room temperature for 18 h. Activated charcoal was added, and the mixture was filtered through a pad of Celite, washing the filter pad with ethyl acetate. The filtrate was concentrated under reduced pressure and the residue purified by silica gel chromatography (elution with hexanes-ethyl acetate, gradient 100:0-50:50), to give 11.6 g of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-2,2-difluoro-prop ionic acid ethyl ester (IV-1).

reactant | 3-cyclobutylamino-2,2-difluoropropionic acid ethyl ester | 0.086 mole, 17.76 g | C(C)OC(C(CNC1CCC1)(F)F)=O | C9H15F2NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.086 mole, 16.6 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | sodium bicarbonate | 0.344 mole, 28.9 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-2,2-difluoro-prop ionic acid ethyl ester | 11.6 g | C(C)OC(C(CN(C1CCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)(F)F)=O | C13H15ClF2N4O4
